US07244730B2
(Step 11) 4-(Azidomethyl)-5-cyano-2-ethoxybenzoic acid
After dissolving tert-butyl 4-(azidomethyl)-5-cyano-2-ethoxybenzoate (1.923 g) in dichloromethane (12 ml), trifluoroacetic acid (3 ml) was added while cooling on ice. The mixture was stirred at room temperature for 20 minutes and concentrated. The title compound was obtained as light red crystals.

reactant | tert-butyl 4-(azidomethyl)-5-cyano-2-ethoxybenzoate | 1.923 g | N(=[N+]=[N-])CC1=CC(=C(C(=O)OC(C)(C)C)C=C1C#N)OCC | C15H18N4O3
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(Azidomethyl)-5-cyano-2-ethoxybenzoic acid | N(=[N+]=[N-])CC1=CC(=C(C(=O)O)C=C1C#N)OCC | C11H10N4O3
